US07932399B2
2-(5,6-Dichloro-1H-benzoimidazol-2-yl)-1,1,1-trifluoro-3-methyl-but-3-en-2-ol (#9)
To 1-(5,6-dichloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone (793 mg) in THF (5 mL) at −78° C. was added isopropenyl magnesium bromide (12.3 mL of 0.5 M in THF) dropwise. The resulting mixture was then stirred at 0° C. for 5 hr. The reaction was quenched with H2O and 1 N HCl, extracted with EtOAc, dried over Na2SO4, filtered, and concentrated to a residue. The residue was purified by flash chromatography with Biotage 40s+ column and elution with 10%-40% EtOAc/hexanes to yield an orange gum. The orange gum was dissolved in a minimal amount of CH2Cl2 and triturated with hexanes to yield the title compound as a peach-colored solid.

reactant | 1-(5,6-dichloro-1H-benzoimidazol-2-yl)-2,2,2-trifluoro-ethanone | 793 mg | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)=O)C=C1Cl | C9H3Cl2F3N2O
reactant | isopropenyl magnesium bromide | 0.5 M, 12.3 mL | C(=C)(C)[Mg]Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(5,6-Dichloro-1H-benzoimidazol-2-yl)-1,1,1-trifluoro-3-methyl-but-3-en-2-ol | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)(C(=C)C)O)C=C1Cl | C12H9Cl2F3N2O
